US06515179B2
A 28% sodium methoxide/methanol solution (0.34 ml; 1.52 molar equivalents) was added to a solution of N-(2-nitrobenzenesulfonyl)benzhydrylamine (401.6 mg) in dry dioxane (3 ml) at room temperature in an argon atmosphere, followed by stirring for 23 hours at room temperature. The reaction solvents were removed by evaporation under reduced pressure, and water (10 ml), 2 N sulfuric acid (1.5 ml) and ether (15 ml) were added to the resulting concentrate, followed by extraction and solution separation. The organic layer was extracted again with water (5 ml). To the resulting aqueous layer, 5 N sodium hydroxide (1 ml) was added, and extraction was conducted twice with ether (13 ml), followed by drying over sodium sulfate, filtration, concentration and drying under vacuum to obtain benzhydrylamine (205.2 mg; yield: quantitative).

reactant | sodium methoxide methanol | 1.52 molar, 0.34 ml | C[O-].[Na+].CO
reactant | N-(2-nitrobenzenesulfonyl)benzhydrylamine | 401.6 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16N2O4S
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | benzhydrylamine | 205.2 mg, yield: quantitative | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
